US07491722B2
5-Acetyl-4-[(3,5-dichloropyridin-4-yl)amino]-2-ethyl-6-phenylpyridazin-3(2H)-one
To a stirred suspension of 50 mg (1.25 mmol) of sodium hydride in 5 ml of THF, 100 mg (0.62 mmol) of 4-amino-3,5-dichloropyridine in 5 ml of THF was added. The mixture was allowed stirring 30 minutes at room temperature and then cooled to 0° C. 150 mg (0.52 mmol) of 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one (Dal Piaz, V et al, J. Med. Chem. 1997, 40, 1417) in 10 ml of THF was added. The reaction was allowed to warm to room temperature and to continue stirring for 12 hours. The mixture was acidified with 2N HCl to pH 2. Ethyl acetate was added and the organic layer was washed with water, brine, dried over Na2SO4 anhydride and evaporated. The residue obtained (210 mg) was purified by column chromatography (silica gel, hexane/ethyl acetate 1:1) to yield the title compound (35 mg, 16.7% yield).

reactant | sodium hydride | 1.25 mmol, 50 mg | [H-].[Na+]
reactant | 4-amino-3,5-dichloropyridine | 0.62 mmol, 100 mg | NC1=C(C=NC=C1Cl)Cl | C5H4Cl2N2
reactant | 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one | 0.52 mmol, 150 mg | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)[N+](=O)[O-] | C14H13N3O4
reactant | HCl | 2N | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Acetyl-4-[(3,5-dichloropyridin-4-yl)amino]-2-ethyl-6-phenylpyridazin-3(2H)-one | 35 mg, 16.7% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC1=C(C=NC=C1Cl)Cl | C19H16Cl2N4O2
